US08232286B2
N-{1-[4-(MORPHOLIN-4-CARBONYL)-PHENYL]-4,5-DIHYDRO-1H-PYRAZOLO[3′,4′:3,4]BENZO[1,2-d]THIAZOL-7-YL}-ACETAMIDE
A solution of 3.5 mg (0.01 mmol) 4-(7-acetylamino-4,5-dihydro-pyrazolo[3′,4′:3,4]benzo[1,2-d]thiazol-1-yl)-benzoic acid (prepared analogously to Example 1) in 0.5 ml DMF is combined with 4 μL (0.03 mmol) triethylamine and 4 mg (0.01 mmol) O-pentafluorophenyl-1,1,3,3-tetramethyluronium hexafluorophosphate (PFTU) and stirred for 15 minutes. A solution of 1 mg (0.01 mmol) morpholine in 0.5 ml DMF is added to this mixture and it is shaken for 12 hours at ambient temperature. Then 3 mg polyamine resin HL (0.01 mmol, 200-400 mesh) are added and the mixture is shaken for a further 8 hours. The resin is filtered off and the filtrate is evaporated to dryness in vacuo.

reactant | 4-(7-acetylamino-4,5-dihydro-pyrazolo[3′,4′:3,4]benzo[1,2-d]thiazol-1-yl)-benzoic acid | 0.01 mmol, 3.5 mg | C(C)(=O)NC=1SC2=C(N1)CCC1=C2N(N=C1)C1=CC=C(C(=O)O)C=C1 | C17H14N4O3S
reactant | triethylamine | 0.03 mmol, 4 μL | C(C)N(CC)CC | C6H15N
reactant | morpholine | 0.01 mmol, 1 mg | N1CCOCC1 | C4H9NO
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | N-{1-[4-(MORPHOLIN-4-CARBONYL)-PHENYL]-4,5-DIHYDRO-1H-PYRAZOLO[3′,4′:3,4]BENZO[1,2-d]THIAZOL-7-YL}-ACETAMIDE | N1(CCOCC1)C(=O)C1=CC=C(C=C1)N1N=CC2=C1C1=C(N=C(S1)NC(C)=O)CC2 | C21H21N5O3S
